US06214877B1
step 1 N-(8-phenyloctyl)-3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzamide
The product was prepared as a viscous yellow oil (0.165 g, 61%) from 3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester and 8-phenyloctylamine using a procedure similar to step 2 of example 1; 1H NMR (300 MHz, DMSO-d6) δ1.21-1.34 (m, 8H), 1.45-1.58 (m, 4H), 2.50 (t, J=7.5 Hz, 2H), 3.10 (q, J=6 Hz, 2H), 3.20-3.30 (m, 4H), 3.80 (s, 3H), 4.38 (t, J=6 Hz, 1H), 7.01-7.05 (m, 2H), 7.10-7.25 (m, 5H),7.60 (d, J=9 Hz, 2H), 7.68-7.78 (m, 2H), 7.84-7.88 (m, 2H), 7.90-7.95 (m, 2H), 8.54 (t, J=5 Hz, 1H); mass spectrum [(+)ESI], m/z 620 (M+H)+.

reactant | 3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC=C(C=C1)OC)=O | C25H23F3O5
reactant | 8-phenyloctylamine | C1(=CC=CC=C1)CCCCCCCCN | C14H23N
product | N-(8-phenyloctyl)-3-(4-methoxyphenyl)-5-(3-trifluoromethylphenyl)-4-(2-hydroxyethoxy)benzamide | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)C1=CC=C(C=C1)OC)=O | C37H40F3NO4
